US05663441
More specifically, the process for producing N-sec-butyl-4-tert-butyl-2,6-dinitroaniline comprises reacting 4-tert-butylphenol with dimethyl sulfate to produce 4-tert-butylanisole. The 4-tert-butylanisole is then reacted with nitrating agent to produce 2,6-dinitro-4-tert-butylanisole. The 2,6-dinitro-4-tert-butylanisole is then reacted with sec-butylamine to produce N-sec-butyl-4-tert-butyl-2,6-dinitroaniline.

reactant | 4-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 4-tert-butylanisole | C(C)(C)(C)C1=CC=C(C=C1)OC | C11H16O
